US07638629B2
Step 5: (±)-{1-(4-Chlorophenyl)-2-[4-(trifluoromethyl)phenyl]piperidin-4-yl}acetic acid
A solution of methyl{1-(4-chlorophenyl)-2-[4(trifluoromethyl)phenyl]piperidine-4-yl}acetate (34 mg, 0.08 mmol) in THF (2 ml) and H2O (2 ml) was treated with LiOH (19 mg, 0.8 mmol) and the mixture was stirred at room temperature for 20 hours. The reaction was diluted with hydrochloric acid (1N, 20 ml) and extracted with EtOAc (2×20 ml). The combined extracts were washed with brine (×1), then dried (MgSO4), filtered and evaporated. The residue was purified by chromatography on silica, eluting with 7.5% MeOH/DCM give the acid as a clear gum (15 mg, 45%). 1H NMR (400 MHz, CD3OD) δ: 1.34-1.40 (1H, m), 1.54-1.67 (1H, m), 1.84-2.12 (3H, m), 2.24-2.30 (2H, m), 2.86 (1H, dt, J 12.1, 2.4), 3.47-3.54 (1H, m), 4.15 (1H, dd, J 11.5, 2.7), 6.95 (2H, d, J 8.8), 7.06 (2H, d, J 8.8), 7.44 (4H, s).

reactant | methyl{1-(4-chlorophenyl)-2-[4(trifluoromethyl)phenyl]piperidine-4-yl}acetate | 0.08 mmol, 34 mg | COC(CC1CC(N(CC1)C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)C(F)(F)F)=O | C21H21ClF3NO2
reactant | LiOH | 0.8 mmol, 19 mg | [Li+].[OH-]
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | H2O | 2 ml | O | H2O
solvent | hydrochloric acid | 1N, 20 ml | Cl | ClH
product | (±)-{1-(4-Chlorophenyl)-2-[4-(trifluoromethyl)phenyl]piperidin-4-yl}acetic acid | 15 mg, 45% | ClC1=CC=C(C=C1)N1C(CC(CC1)CC(=O)O)C1=CC=C(C=C1)C(F)(F)F | C20H19ClF3NO2
